US04451462
A mixture of 20.4 g (0.1 mole) of 4-methyl-2-(1-methyl-2-propenyl)-phenyl acetate and 100 mg (0.4 mmole) of osmium tetroxide in 300 ml of dioxane and 100 ml of water is stirred at room temperature for 30 minutes, then, in the course of 30 minutes, 42.8 g (0.2 mole) of sodium periodate are added in portions and the mixture is subsequently stirred for one hour. The resulting precipitate is filtered off and then washed with dioxane/water (1:1). The aqueous-organic phase is concentrated in vacuo to approximately one third and extracted with methylene chloride. The oily crude product obtained after drying and after removal of the methylene chloride is taken up in 100 ml of acetone and oxidised by adding dropwise in the course of half an hour a solution of 7.2 g (72 mmoles) of chromium trioxide and 6.2 ml of concentrated sulphuric acid in 40 ml of water. Subsequently, 3 ml of methanol and 200 ml of water are added, the acetone is removed in vacuo, the aqueous phase is extracted with ether and the ther solution is extracted three times with 10% sodium hydroxide solution. The aqueous alkaline solution is left to stand at room temperature for 3 hours, then adjusted to pH 3 with concentrated hydrochloric acid and extracted with ether. The oil obtained after drying and after removal of the ether is stirred for 2 hours with 300 ml of saturated methanolic hydrochloric acid. Subsequently, the methanol is removed in vacuo and the residue is partitioned between ether and dilute sodium bicarbonate solution. The crude product obtained after drying and concentrating by evaporation the organic phase is chromatographed over silica gel with methylene chloride. Subsequent recrystallisation of the pure fractions from methylene chloride/petroleum ether yields 2-(2-hydroxy-5-methylphenyl)-propionic acid methyl ester having a melting point of 104°-106°.

reactant | 4-methyl-2-(1-methyl-2-propenyl)-phenyl acetate | 0.1 mole, 20.4 g | C(C)(=O)OC1=C(C=C(C=C1)C)C(C=C)C | C13H16O2
reactant | sodium periodate | 0.2 mole, 42.8 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | sulphuric acid | 6.2 ml | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 3 ml | CO | CH4O
solvent | dioxane | 300 ml | O1CCOCC1 | C4H8O2
solvent | water | 100 ml | O | H2O
solvent | water | 40 ml | O | H2O
catalyst | osmium tetroxide | 0.4 mmole, 100 mg | [Os](=O)(=O)(=O)=O
catalyst | chromium trioxide | 72 mmoles, 7.2 g | [O-2].[O-2].[O-2].[Cr+6]
solvent | water | 200 ml | O | H2O
product | 2-(2-hydroxy-5-methylphenyl)-propionic acid methyl ester | COC(C(C)C1=C(C=CC(=C1)C)O)=O | C11H14O3
